US06303793B1
Using Method C above, N-methylpropargylamine (44.9 mg, 0.65 mmol) was coupled with (Z)-1,3-dihydro-5-fluoro-4-iodo-3-[(3-methoxy-1H-pyrrol-2-yl)methylene]-2H-indol-2-one (100 mg, 0.26 mmol) (Starting Matenal 6, supra) using (Ph3P)4Pd (32 mg) and CuI (5.3 mg) as catalyst in DMF (5 mL) and Et3N (5 mL) as solvent at 85° C. for 18 h to yield (Z)-1,3-Dihydro-5-fluoro-4-[3-(N-methylamino)-1-propynyl]-3-[(3-methoxy-1H-pyrrol-2-yl)methylene]-2H-indol-2-one. (Yield 10 mg, 12%).

reactant | N-methylpropargylamine | 0.65 mmol, 44.9 mg | CNCC#C | C4H7N
reactant | (Z)-1,3-dihydro-5-fluoro-4-iodo-3-[(3-methoxy-1H-pyrrol-2-yl)methylene]-2H-indol-2-one | 0.26 mmol, 100 mg | FC=1C(=C2/C(/C(NC2=CC1)=O)=C/C=1NC=CC1OC)I | C14H10FIN2O2
catalyst | (Ph3P)4Pd | 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 5.3 mg | [Cu]I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 5 mL | CCN(CC)CC | C6H15N
product | (Z)-1,3-Dihydro-5-fluoro-4-[3-(N-methylamino)-1-propynyl]-3-[(3-methoxy-1H-pyrrol-2-yl)methylene]-2H-indol-2-one | FC=1C(=C2/C(/C(NC2=CC1)=O)=C/C=1NC=CC1OC)C#CCNC | C18H16FN3O2
